US05650410
A mixture of benzyl 4-(N,N-diethylamino)butanoate (33.8 g), palladium-carbon (5%, 7 g) and ethanol (500 ml) was subjected to catalytic hydrogenation at room temperature and 1 atm. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to give 4-(N,N-diethylamino)butanoic acid (16.2 g, 75%). mp. 45°-47° C.

reactant | benzyl 4-(N,N-diethylamino)butanoate | 33.8 g | C(C)N(CC)CCCC(=O)OCC1=CC=CC=C1 | C15H23NO2
catalyst | palladium-carbon | 7 g | [C].[Pd]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4-(N,N-diethylamino)butanoic acid | 16.2 g, 75% | C(C)N(CC)CCCC(=O)O | C8H17NO2
